US05292766
A solution of 2-di-n-propylamino-8-acetyl-1,2,3,4-tetrahydronaphthalene (0.3 g, 1.1 mmol), prepared as in Part A hereof, and tris(dimethylamino)-methane (0.32 g, 2.2 mmol) in toluene was heated to reflux for 5 hours and at 60° for 18 hours. An additional aliquot of tris(dimethylamino)methane (0.16 g, 1.1. mmol) was added and the reaction stirred at 60° for an additional 2 hours. The reaction was concentrated to give 2-di-n-propylamino-8-(1-oxo-3-(dimethylamino)-prop-2-enyl)-1,2,3,4-tetrahydronaphthalene (0.39 g) as a viscous, orange oil.

reactant | 2-di-n-propylamino-8-acetyl-1,2,3,4-tetrahydronaphthalene | 1.1 mmol, 0.3 g | C(CC)N(C1CC2=C(C=CC=C2CC1)C(C)=O)CCC | C18H27NO
reactant | tris(dimethylamino)-methane | 2.2 mmol, 0.32 g | CN(C)C(N(C)C)N(C)C | C7H19N3
reactant | tris(dimethylamino)methane | 0.16 g | CN(C)C(N(C)C)N(C)C | C7H19N3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-di-n-propylamino-8-(1-oxo-3-(dimethylamino)-prop-2-enyl)-1,2,3,4-tetrahydronaphthalene | 0.39 g | C(CC)N(C1CC2=C(C=CC=C2CC1)C(C=CN(C)C)=O)CCC | C21H32N2O
